US06906103B2
(A) Synthesis of 6-Nitro-1H-indole-2-carboxylic acid (2-dimethylamino-ethyl)-amide, 125
500 mg (2.27 mmole) 6-Nitro-1H-indole-2-carboxylic acid methyl ester was dissolved in 4 mL neat N1,N1-dimethyl-ethane-1,2-diamine, was kept at 55° C. overnight and was evaporated. The oily residue was triturated with n-hexane to give 528 mg (84%) yellow solid which was no further purified. MS: 277.13 (calcd for M+H+: 277.13)

reactant | 6-Nitro-1H-indole-2-carboxylic acid methyl ester | 2.27 mmole, 500 mg | COC(=O)C=1NC2=CC(=CC=C2C1)[N+](=O)[O-] | C10H8N2O4
reactant | N1,N1-dimethyl-ethane-1,2-diamine | 4 mL | CN(CCN)C | C4H12N2
product | 6-Nitro-1H-indole-2-carboxylic acid (2-dimethylamino-ethyl)-amide | 528 mg, 84% | CN(CCNC(=O)C=1NC2=CC(=CC=C2C1)[N+](=O)[O-])C | C13H16N4O3
